US09120822B2
Methylmagnesium chloride (3M solution in tetrahydrofuran, 31 mg, 0.41 mmol, 2.2 eq) is added at −10° C. to a stirred solution of [trans-4-(methoxy-methyl-carbamoyl)-cyclohexyl]-carbamic acid benzyl ester (60 mg, 0.19 mmol, 1.0 eq) in tetrahydrofuran (5 mL). After 3 hours stirring at −10° C., solvent is evaporated and the residue is extracted with ethyl acetate (3×10 mL) and a saturated ammonium chloride aqueous solution (10 mL). The combined organic layers are dried over sodium sulfate, filtered and concentrated to give a residue that is purified by column chromatography (silica gel, eluent: petroleum ether:ethyl acetate, 2:1, v/v) to afford (trans-4-acetyl-cyclohexyl)-carbamic acid benzyl ester as a white solid (20 mg, 39% yield).

reactant | Methylmagnesium chloride | 0.41 mmol, 3M, 31 mg, 2.2 eq | C[Mg]Cl
reactant | [trans-4-(methoxy-methyl-carbamoyl)-cyclohexyl]-carbamic acid benzyl ester | 0.19 mmol, 60 mg, 1.0 eq | C(C1=CC=CC=C1)OC(N[C@@H]1CC[C@H](CC1)C(N(C)OC)=O)=O | C17H24N2O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (trans-4-acetyl-cyclohexyl)-carbamic acid benzyl ester | 20 mg, 39% yield | C(C1=CC=CC=C1)OC(N[C@@H]1CC[C@H](CC1)C(C)=O)=O | C16H21NO3
